2166-12-22 05:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   HPI:
   86M with cardiomyopathy (EF 15-20%), CAD, AS, prior MVR, and atrial
   flutter who presented with acute on chronic renal failure and worsening
   lower extremity edema, now improving on milrinone and lasix drips.
   24 Hour Events:
   Milrinone increased to 0.5 mcg/kg/min yesterday.  Lasix gtt increased
   from 8 mg/hour to 10 mg/hour at 8pm due to dropping urine output.
   This morning the patient states that he feels well.  Denies SOB, chest
   pain or any other pain.  Last BM was yesterday.  Reports he is itchy,
   however he gets relief with sarna.
   Allergies:
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Niacin
   Facial erythema
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.7 mcg/Kg/min
   Furosemide (Lasix) - 10 mg/hour
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2166-12-21**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2166-12-21**] 04:00 PM
   Other medications:
   ASA 81 mg daily
   Warfarin 2 mg daily
   Simvastatin 20 mg daily
   Digoxin 0.0625 mg daily
   Metoprolol 25 mg tid
   Minocycline 100 mg [**Hospital1 **]
   Sarna prn
   Colace [**Hospital1 **]
   Senna prn, PEG prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-12-22**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 79 (73 - 99) bpm
   BP: 102/45(58) {77/33(47) - 117/76(85)} mmHg
   RR: 16 (5 - 24) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 70.5 kg (admission): 74 kg
             Total In:
                                                                  2,090 mL
                                                                    293 mL
   PO:
                                                                  1,360 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    730 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                  3,315 mL
                                                                    840 mL
   Urine:
                                                                  3,315 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,225 mL
                                                                   -547 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///32/
   Physical Examination
   General Appearance: Elderly male lying in bed in NAD
   HEENT: PERRL, significant TR, unable to assess JVD.
   Cardiovascular: irregular rhythm, SEM at upper left sternal border.
   Respiratory / Chest: CTAB
   Abdominal: +BS, soft, NTND
   Extremities: 1+ non-pitting edema, 2+ pulses PT and radial.
   Skin:  Rash on abdomen
   Neurologic: Alert and oriented x 3, follows commands and answers
   questions appropriately.
   Labs / Radiology
   10.4 g/dL
   351 K/uL
   98 mg/dL
   2.8 mg/dL
   32 mEq/L
   4.0 mEq/L
   77 mg/dL
   96 mEq/L
   136 mEq/L
   31.8 %
   9.7 K/uL
        [image002.jpg]
                            [**2166-12-19**]  07:59 PM
                            [**2166-12-20**]  05:12 AM
                            [**2166-12-20**]  11:30 PM
                            [**2166-12-21**]  05:30 AM
                            [**2166-12-21**]  04:40 PM
                             [**2166-12-22**]  03:47 AM
   WBC
   9.4
   10.0
   9.9
   9.7
   Hct
   31.3
   30.0
   29.5
   31.8
   Plt
   322
   319
   311
   351
   Cr
   4.1
   3.8
   3.1
   3.1
   2.9
   2.8
   Glucose
   111
   130
   98
   135
   98
   Other labs: PT / PTT / INR:15.3/37.5/1.4, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   86M with cardiomyopathy (EF 15-20%), CAD, AS, prior MVR, and atrial
   flutter who presents with acute on chronic renal failure and worsening
   lower extremity edema, now resolving.
   .
   #. Acute on chronic systolic CHF: Secondary to ischemic cardiomyopathy
   with an estimated EF of 15-20% in [**11-29**]. BNP is [**Numeric Identifier 6744**] up from [**Numeric Identifier 6529**] on
   [**2166-12-8**]. Pt is currently being diuresed with Milrinone and Lasix gtt.
   LOS is -4.3L so far.
   - Cont milrinone at 0.5 mcg/kg/min for another day as his Cr continues
   to decrease with diuresis.  Will plan to stop this tomorrow.
   - Continue neo gtt to counteract hypotensive effects of milrinone.
   Attempt to wean tomorrow after milrinone is stopped.
   - Control HR with Metoprolol 25mg PO tid, with a goal HR < 75
   - Continue lasix drip while monitoring UOP and Cr
   - continue digoxin, level acceptable
   - fluid restrict; low salt diet
   - continue to hold lisinopril in setting of ARF
   - 1500 cc fluid restriction
   .
   # CAD: ST depressions in I and avL. No complaints of CP or SOB. CKs
   flat and Tn's trending down from last admission.
   - continue ASA, statin, bblocker
   - holding ACE for renal failure
   .
   #. Acute on Chronic Renal Failure: Cr improved from admission 4.9 to
   2.8 today (Baseline 2.7). Likely secondary to poor forward flow. FENA
   and Feurea indeterminate at 1.8, 35.5.   No eosinophils were seen in
   the urine, so unlikely to be AIN.
   - Continue holding lisinopril given recent ARF
   - monitor UO and creatinine on milrinone
   .
   #. Atrial Flutter:  Recently started on coumadin 2mg and INR is at 1.4
   today (from 1.4 yesterday).
   - continue to monitor daily INR; goal [**2-23**], consider increasing his
   warfarin dose (was last increased from 0.5 to 2 mg daily on [**12-18**]).
   - continue to monitor on telemetry
   - bblocker for rate control, will continue on Metoprolol 25mg PO TID as
   his rate has been well controlled, generally < 80.  Could consider
   increasing if BP tolerates.
   .
   # Hyperlipidemia: continue statin
   .
   #. Rash: Hx of pemphigus. Started on minocycline by outpatient his
   outpatient dermatologist. Biopsy completed and still pending.
   - continue to monitor; will follow up outpatient biopsy results
   - restarted minocycline (dig level ok)
   - sarna lotion prn pruritis
   .
   #. FEN: Follow and replete electrolytes. Cardiac diet. 1500 cc fluid
   restriction
   #. Access: PIV x2 and an EJ
   #. PPx: PPI (home med); cont anticoagulation; bowel regimen prn; SQH
   until INR therapeutic
   #. Code: FULL
   #. Contact: person is wife [**Name (NI) 6745**] H [**Telephone/Fax (1) 6746**]; C [**Telephone/Fax (1) 6747**]
   #. Dispo: transfer the floor once off the milrione drip (possibly
   today)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-12-19**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2166-12-23 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   86M with cardiomyopathy (EF 15-20%), CAD, AS, prior MVR, and atrial
   flutter who presented with acute on chronic renal failure and worsening
   lower extremity edema, now improving on milrinone and lasix drips.
   24 Hour Events:
   The patient
s metoprolol was increased to 37.5 mg tid yesterday due to
   HR persistently > 75.
   This am he denies any complains including CP, SOB, or dizziness.
   Allergies:
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Niacin
   Facial erythema
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.7 mcg/Kg/min
   Furosemide (Lasix) - 10 mg/hour
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-12-23**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 88 (76 - 115) bpm
   BP: 98/50(63) {80/22(38) - 136/98(106)} mmHg
   RR: 17 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 70.5 kg (admission): 74 kg
             Total In:
                                                                  2,059 mL
                                                                    272 mL
   PO:
                                                                  1,240 mL
                                                                     40 mL
   TF:
   IVF:
                                                                    819 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  3,560 mL
                                                                  1,385 mL
   Urine:
                                                                  3,560 mL
                                                                  1,385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,501 mL
                                                                 -1,113 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///32/
   Physical Examination
   General Appearance: Elderly male lying in bed in NAD
   HEENT: OP clear, MM dry
   Cardiovascular: irregularly irregular rhythm, SEM at upper left sternal
   border.
   Respiratory / Chest: CTAB
   Abdominal: +BS, soft, NTND
   Extremities: 1+ non-pitting edema, 2+ pulses PT and radial.
   Skin: venous statsis dermatitis present b/l in his lower extremities
   Neurologic: Alert and appropriate
   Labs / Radiology
   406 K/uL
   9.8 g/dL
   99 mg/dL
   2.6 mg/dL
   32 mEq/L
   4.3 mEq/L
   71 mg/dL
   92 mEq/L
   133 mEq/L
   30.6 %
   10.0 K/uL
        [image002.jpg]
                            [**2166-12-19**]  07:59 PM
                            [**2166-12-20**]  05:12 AM
                            [**2166-12-20**]  11:30 PM
                            [**2166-12-21**]  05:30 AM
                            [**2166-12-21**]  04:40 PM
                             [**2166-12-22**]  03:47 AM
                             [**2166-12-23**]  03:24 AM
   WBC
   9.4
   10.0
   9.9
   9.7
   10.0
   Hct
   31.3
   30.0
   29.5
   31.8
   30.6
   Plt
   322
   319
   311
   351
   406
   Cr
   4.1
   3.8
   3.1
   3.1
   2.9
   2.8
   2.6
   Glucose
   111
   130
   98
   135
   98
   99
   Other labs: PT / PTT / INR:15.2/32.1/1.3, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   86M with cardiomyopathy (EF 15-20%), CAD, AS, prior MVR, and atrial
   flutter who presents with acute on chronic renal failure and worsening
   lower extremity edema, now resolving.
   .
   #. Acute on chronic systolic CHF: Secondary to ischemic cardiomyopathy
   with an estimated EF of 15-20% in [**11-29**]. BNP is [**Numeric Identifier 6744**] up from [**Numeric Identifier 6529**] on
   [**2166-12-8**]. Pt is currently being diuresed with Milrinone 0.5 mcg/kg/hr
   and Lasix gtt.  LOS is -7.2L.
   - Will stop his milrinone and lasix gtts.
   - Will wean off his neo gtt after the milrinone is stopped.
   - Transition to po diuresis with 3 mg of bumex [**Hospital1 **].
   - Control HR with Metoprolol 37.5 mg PO tid, with a goal HR < 75
   - Continue digoxin, level acceptable
   - fluid restrict; low salt diet
   - continue to hold lisinopril given his recent ARF
   - 1500 cc fluid restriction
   .
   # CAD: ST depressions in I and avL. No complaints of CP or SOB. CKs
   flat and Tn's trending down from last admission.
   - Continue ASA, statin, bblocker
   - Holding ACE given recent renal failure
   .
   #. Acute on Chronic Renal Failure: Cr improved from admission 4.9 to
   2.6 today (Baseline 2.7). His ARF was likely secondary to poor forward
   flow. FENA and Feurea indeterminate at 1.8, 35.5.   No eosinophils were
   seen in the urine, so unlikely to be AIN.
   - Continue holding lisinopril given recent ARF
   - monitor UO and creatinine with continued diuresis
   .
   #. Atrial Flutter:  Coumadin was recently increased to 2mg (on [**12-18**])
   and INR is at 1.3 today (from 1.4 yesterday).  The patient is on
   minocycline which can interact with coumadin to prolong the INR,
   however he has been subtherapeutic since admission.
   - Continue to monitor daily INR; goal [**2-23**]; will increase his coumadin
   dose to 4 mg daily.
   - Continue to monitor on telemetry
   - Bblocker for rate control; will continue on Metoprolol 37.5mg PO TID
   as his rate has been well controlled, generally < 80.  Could consider
   increasing if BP tolerates.
   - Will email his outpatient dermatologist who started the minocycline
   as to the length of expected treatment given its interaction with
   coumadin.
   .
   # Hyperlipidemia: continue statin
   .
   #. Rash: Hx of pemphigus. Started on minocycline by outpatient his
   outpatient dermatologist. Biopsy completed and still pending.
   - continue to monitor; will follow up outpatient biopsy results
   - restarted minocycline (dig level ok)
   - sarna lotion prn pruritis
   .
   #. FEN: Follow and replete electrolytes. Cardiac diet. 1500 cc fluid
   restriction
   #. Access: PIV x2 and an EJ
   #. PPx: PPI (home med); cont anticoagulation; bowel regimen prn; SQH
   until INR therapeutic
   #. Code: FULL
   #. Contact: person is wife [**Name (NI) 6745**] H [**Telephone/Fax (1) 6746**]; C [**Telephone/Fax (1) 6747**]
   #. Dispo: transfer the floor once off the milrione drip (possibly
   today)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-12-22**] 03:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2166-12-24 05:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   86M with cardiomyopathy (EF 15-20%), CAD, AS, prior MVR, and atrial
   flutter who presents with acute on chronic renal failure and worsening
   lower extremity edema improved with milrinone.
   24 Hour Events:
   The patient's milrinone and lasix drips were stopped, however he
   patient was continued on neo given low SBP when it was weaned.  He was
   started on bumex 3 mg [**Hospital1 **].  His coumadin was increased to 4 mg daily.
   His HR remained elevated in the 80's to 90's so his metoprolol was
   increased to 50 mg [**Hospital1 **].  The derm biopsy returned showing phemphigus
   bullous (will need to touch base with his dermatologist regarding if tx
   change is needed).
   Allergies:
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Niacin
   Facial erythema
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-12-24**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 89 (77 - 101) bpm
   BP: 101/62(72) {92/44(33) - 114/71(135)} mmHg
   RR: 19 (15 - 22) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 70.5 kg (admission): 74 kg
             Total In:
                                                                  1,598 mL
                                                                     87 mL
   PO:
                                                                  1,060 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    538 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                  3,230 mL
                                                                    120 mL
   Urine:
                                                                  3,230 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,632 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Elderly male lying in bed in NAD
   HEENT: OP clear, MM dry
   Cardiovascular: irregularly irregular rhythm, SEM at upper left sternal
   border.
   Respiratory / Chest: CTAB
   Abdominal: +BS, soft, NTND
   Extremities: 1+ non-pitting edema, 2+ pulses PT and radial.
   Skin: venous statsis dermatitis present b/l in his lower extremities
   Neurologic: Alert and appropriate
   Labs / Radiology
   406 K/uL
   9.8 g/dL
   99 mg/dL
   2.6 mg/dL
   32 mEq/L
   4.3 mEq/L
   71 mg/dL
   92 mEq/L
   133 mEq/L
   30.6 %
   10.0 K/uL
        [image002.jpg]
                            [**2166-12-19**]  07:59 PM
                            [**2166-12-20**]  05:12 AM
                            [**2166-12-20**]  11:30 PM
                            [**2166-12-21**]  05:30 AM
                            [**2166-12-21**]  04:40 PM
                             [**2166-12-22**]  03:47 AM
                             [**2166-12-23**]  03:24 AM
   WBC
   9.4
   10.0
   9.9
   9.7
   10.0
   Hct
   31.3
   30.0
   29.5
   31.8
   30.6
   Plt
   322
   319
   311
   351
   406
   Cr
   4.1
   3.8
   3.1
   3.1
   2.9
   2.8
   2.6
   Glucose
   111
   130
   98
   135
   98
   99
   Other labs: PT / PTT / INR:15.2/32.1/1.3, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   86M with cardiomyopathy (EF 15-20%), CAD, AS, prior MVR, and atrial
   flutter who presents with acute on chronic renal failure and worsening
   lower extremity edema, now resolving.
   .
   #. Acute on chronic systolic CHF: Secondary to ischemic cardiomyopathy
   with an estimated EF of 15-20% in [**11-29**]. BNP is [**Numeric Identifier 6744**] up from [**Numeric Identifier 6529**] on
   [**2166-12-8**]. Pt is currently being diuresed with Milrinone 0.5 mcg/kg/hr
   and Lasix gtt.  LOS is -7.2L.
   - Will stop his milrinone and lasix gtts.
   - Will wean off his neo gtt after the milrinone is stopped.
   - Transition to po diuresis with 3 mg of bumex [**Hospital1 **].
   - Control HR with Metoprolol 37.5 mg PO tid, with a goal HR < 75
   - Continue digoxin, level acceptable
   - fluid restrict; low salt diet
   - continue to hold lisinopril given his recent ARF
   - 1500 cc fluid restriction
   .
   # CAD: ST depressions in I and avL. No complaints of CP or SOB. CKs
   flat and Tn's trending down from last admission.
   - Continue ASA, statin, bblocker
   - Holding ACE given recent renal failure
   .
   #. Acute on Chronic Renal Failure: Cr improved from admission 4.9 to
   2.6 today (Baseline 2.7). His ARF was likely secondary to poor forward
   flow. FENA and Feurea indeterminate at 1.8, 35.5.   No eosinophils were
   seen in the urine, so unlikely to be AIN.
   - Continue holding lisinopril given recent ARF
   - monitor UO and creatinine with continued diuresis
   .
   #. Atrial Flutter:  Coumadin was recently increased to 2mg (on [**12-18**])
   and INR is at 1.3 today (from 1.4 yesterday).  The patient is on
   minocycline which can interact with coumadin to prolong the INR,
   however he has been subtherapeutic since admission.
   - Continue to monitor daily INR; goal [**2-23**]; will increase his coumadin
   dose to 4 mg daily.
   - Continue to monitor on telemetry
   - Bblocker for rate control; will continue on Metoprolol 37.5mg PO TID
   as his rate has been well controlled, generally < 80.  Could consider
   increasing if BP tolerates.
   - Will email his outpatient dermatologist who started the minocycline
   as to the length of expected treatment given its interaction with
   coumadin.
   .
   # Hyperlipidemia: continue statin
   .
   #. Rash: Hx of pemphigus. Started on minocycline by outpatient his
   outpatient dermatologist. Biopsy completed and still pending.
   - continue to monitor; will follow up outpatient biopsy results
   - restarted minocycline (dig level ok)
   - sarna lotion prn pruritis
   .
   #. FEN: Follow and replete electrolytes. Cardiac diet. 1500 cc fluid
   restriction
   #. Access: PIV x2 and an EJ
   #. PPx: PPI (home med); cont anticoagulation; bowel regimen prn; SQH
   until INR therapeutic
   #. Code: FULL
   #. Contact: person is wife [**Name (NI) 6745**] H [**Telephone/Fax (1) 6746**]; C [**Telephone/Fax (1) 6747**]
   #. Dispo: transfer the floor once off the milrione drip (possibly
   today)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-12-23**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2166-12-25 05:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Biopsy returned bullous pemphigoid.  Dermatologist was emailed
   regarding treatment for bulllous pemphigoid.
   PT ordered (not seen).  Dig level checked and 0.8.
   Called out to floor but no bed available.
   Allergies:
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Niacin
   Facial erythema
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-12-24**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-12-25**] 05:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 80 (66 - 91) bpm
   BP: 93/53(61) {91/43(55) - 109/64(72)} mmHg
   RR: 19 (8 - 20) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 65.4 kg (admission): 74 kg
                  Total In:
                                                                    747 mL
                  PO:
                                                                    710 mL
                  TF:
   IVF:
                                                                     37 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    320 mL
   Urine:
                                                                  1,800 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,053 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///32/
   Physical Examination
   General Appearance: Elderly male lying in bed in NAD
   HEENT: OP clear, MM dry
   Cardiovascular: irregularly irregular rhythm, SEM at upper left sternal
   border.
   Respiratory / Chest: CTAB
   Abdominal: +BS, soft, NTND
   Extremities: 1+ non-pitting edema, 2+ pulses PT and radial.
   Skin: venous statsis dermatitis present b/l in his lower extremities
   Neurologic: Alert and appropriate
   Labs / Radiology
   376 K/uL
   10.0 g/dL
   103 mg/dL
   2.3 mg/dL
   32 mEq/L
   4.0 mEq/L
   64 mg/dL
   97 mEq/L
   138 mEq/L
   31.0 %
   10.1 K/uL
        [image002.jpg]
                            [**2166-12-19**]  07:59 PM
                            [**2166-12-20**]  05:12 AM
                            [**2166-12-20**]  11:30 PM
                            [**2166-12-21**]  05:30 AM
                            [**2166-12-21**]  04:40 PM
                             [**2166-12-22**]  03:47 AM
                             [**2166-12-23**]  03:24 AM
                             [**2166-12-24**]  06:06 AM
   WBC
   9.4
   10.0
   9.9
   9.7
   10.0
   10.1
   Hct
   31.3
   30.0
   29.5
   31.8
   30.6
   31.0
   Plt
   322
   319
   311
   [**Telephone/Fax (3) 6848**]
   Cr
   4.1
   3.8
   3.1
   3.1
   2.9
   2.8
   2.6
   2.3
   Glucose
   111
   130
   98
   135
   98
   99
   103
   Other labs: PT / PTT / INR:15.1/29.7/1.3, Ca++:8.6 mg/dL, Mg++:2.1
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   86M with cardiomyopathy (EF 15-20%), CAD, AS, prior MVR, and atrial
   flutter who presents with acute on chronic renal failure and worsening
   lower extremity edema, now resolving.
   .
   #. Acute on chronic systolic CHF: Secondary to ischemic cardiomyopathy
   with an estimated EF of 15-20% in [**11-29**]. BNP is [**Numeric Identifier 6744**] up from [**Numeric Identifier 6529**] on
   [**2166-12-8**].  Pt was diuresed with Milrinone and Lasix with Neo for BP
   support.  These are now off.  LOS is -7.7L.  On Bumex 3mg [**Hospital1 **].
   Creatinine improving.
   - Continue Bumex 3mg PO BID.
   - Metoprolol 50mg PO TID for HR control.
   - Continue digoxin.
   - fluid restrict; low salt diet
   - continue to hold lisinopril given his recent ARF
   - 1500 cc fluid restriction
   .
   # CAD: ST depressions in I and avL. No complaints of CP or SOB. CKs
   flat and Tn's trending down from last admission.
   - Continue ASA, statin, bblocker
   - Holding ACE given recent renal failure
   .
   #. Acute on Chronic Renal Failure: Cr improved from admission 4.9 to
   2.6 today (Baseline 2.7). His ARF was likely secondary to poor forward
   flow. FENA and Feurea indeterminate at 1.8, 35.5.   No eosinophils were
   seen in the urine, so unlikely to be AIN.
   - Continue holding lisinopril given recent ARF
   - monitor UO and creatinine
   .
   #. Atrial Flutter:  Coumadin is now up to 4mg (increased from 2mg to
   4mg on [**12-23**]). INR still low at 1.3.  The patient is on minocycline
   which can interact with coumadin to prolong the INR, however he has
   been subtherapeutic since admission.
   - Continue to monitor daily INR; goal [**2-23**].
   - Continue to monitor on telemetry
   - Bblocker for rate control; will continue on Metoprolol 50mg PO TID as
   his rate has been well controlled, generally < 80.  Could consider
   increasing if BP tolerates.
   .
   # Hyperlipidemia: continue statin
   .
   #. Rash: Hx of pemphigus. Started on minocycline by outpatient his
   outpatient dermatologist. Biopsy completed and showing bullous
   pemphigoid
   - continue to monitor; will follow up outpatient biopsy results
   - continue minocycline
   - hydroxyzine for itching
   - sarna lotion prn pruritis
   .
   #. FEN: Follow and replete electrolytes. Cardiac diet. 1500 cc fluid
   restriction
   #. Access: PIV x2 and an EJ
   #. PPx: PPI (home med); cont anticoagulation; bowel regimen prn; SQH
   until INR therapeutic
   #. Code: FULL
   #. Contact: person is wife [**Name (NI) 6745**] H [**Telephone/Fax (1) 6746**]; C [**Telephone/Fax (1) 6747**]
   #. Dispo: transfer the floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-12-23**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: